US06737383B1
Step A: Preparation of Phenylhydroxycarbamate
To a stirred solution of NaHCO3 (60.5 g) in water (200 mL) in a 2 L beaker was added portion-wise over 15 min 27.5 g of hydroxylamine hydrochloride. Once the bubbling subsided, dichloromethane (200 mL) was added to the reaction mixture and cooled to 5° C. Phenyl chloroformate (50 g) was then added at a steady rate to the reaction mixture. The reaction mixture was allowed to warm to room temperature and stirred for 1 h. Ethyl acetate (100 mL) was employed to bring the reaction mixture to a transparent solution. The organic layer was separated, washed with brine (200 mL) and dried over MgSO4. The organic solvent was removed under reduced pressure to give the title compound (38.20 g) as a white solid melting at 104-107° C.

reactant | NaHCO3 | 60.5 g | C(=O)(O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 27.5 g | Cl.NO
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | Phenyl chloroformate | 50 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | water | 200 mL | O | H2O
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Phenylhydroxycarbamate | 38.20 g | C1(=CC=CC=C1)OC(NO)=O | C7H7NO3
